US09359375B2
A solution of 2-bromo-4,5-difluorobenzonitrile (123 mg, 0.564 mmol), 2-amino-4,4,4-trifluorobutanamide (88 mg, 0.564 mmol) and DIEA (0.250 mL, 1.43 mmol) in DMSO (4 mL) was stirred at 120 C for 18 h. Water and EtOAc were added. The organic phase was separated, dried over Na2SO4, concentrated in vacuo. The residue was purified by a silica gel column, which was eluted with 0-70% EtOAc in hexane to give 2-(5-bromo-4-cyano-2-fluorophenylamino)-4,4,4-trifluorobutanamide (90 mg).

reactant | 2-bromo-4,5-difluorobenzonitrile | 0.564 mmol, 123 mg | BrC1=C(C#N)C=C(C(=C1)F)F | C7H2BrF2N
reactant | 2-amino-4,4,4-trifluorobutanamide | 0.564 mmol, 88 mg | NC(C(=O)N)CC(F)(F)F | C4H7F3N2O
reactant | DIEA | 1.43 mmol, 0.250 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(5-bromo-4-cyano-2-fluorophenylamino)-4,4,4-trifluorobutanamide | 90 mg | BrC=1C(=CC(=C(C1)NC(C(=O)N)CC(F)(F)F)F)C#N | C11H8BrF4N3O
